* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1740-1.5.asc
* Generated by LTspice 24.1.9 for Windows.
C2 N002 0 10n
V1 IN 0 1.8
Rload OUT 0 0.75
C1 OUT 0 4.7µ Rser=3m
R1 IN N001 100k
X§U1 IN OUT IN N002 OUT N001 MP_01 0 ADP1740-1.5
.tran 10m startup
.lib ADP1740-1.5.sub
.backanno
.end
